US08669234B2
2-Amino-1-(4-bromo-phenyl)-ethanone HCl (5.8 g, 23 mmol) in DMF (75 mL) was treated with 1-tert-butoxycarbonylamino-cyclobutanecarboxylic acid (5.0 g, 23 mmol), HATU (9.7 g, 25 mmol), and DIPEA (12.9 mL, 34 mmol). The mixture was stirred for 18 hours and concentrated. The mixture was diluted with EtOAc (25 mL), and washed with saturated NaHCO3 (3 10 mL), H2O (10 mL), and brine (10 mL). The solution was dried over MgSO4 to afford crude {1-[2-(4-bromo-phenyl)-2-oxo-ethylcarbamoyl]-cyclobutyl}-carbamic acid tert-butyl ester, which was used without further purification. This material (6.54 g, 16 mmol) in xylenes (40 mL) was treated with ammonium acetate (6.1 g, 80 mmol). The reaction was stirred at 130° C. in a sealed tube for 18 hours. The mixture was concentrated and suspended in dicholormethane (100 mL) and washed with saturated NaHCO3 (50 mL). The solution was dried over MgSO4 to afford crude {1-[5-(4-bromo-phenyl)-1H-imidazol-2-yl]-cyclobutyl}-carbamic acid tert-butyl ester, which was used without further purification: MS (ESI) m/z 393 [M+H]+.

reactant | 2-Amino-1-(4-bromo-phenyl)-ethanone HCl | 23 mmol, 5.8 g | Cl.NCC(=O)C1=CC=C(C=C1)Br
reactant | 1-tert-butoxycarbonylamino-cyclobutanecarboxylic acid | 23 mmol, 5.0 g | C(C)(C)(C)OC(=O)NC1(CCC1)C(=O)O | C10H17NO4
reactant | HATU | 25 mmol, 9.7 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 34 mmol, 12.9 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
product | {1-[2-(4-bromo-phenyl)-2-oxo-ethylcarbamoyl]-cyclobutyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1(CCC1)C(NCC(=O)C1=CC=C(C=C1)Br)=O)=O | C18H23BrN2O4
